US04598077
To a solution of 1.5 g of methyl 4-[2-(4-phthalimidomethylphenyl)ethyl]benzimidate hydrochloride in 150 ml of chloroform, was added 0.3 ml of a methanol solution containing 40% of methylamine. The mixture was stirred at room temperature for 15 hours. The reaction mixture was stripped of the solvent under reduced pressure. Ether was added to the residue and the precipitated crystals were collected by filtration to yield 1.3 g of N-methyl-4-[2-(4-phthalimidomethylphenyl)ethyl]benzamidine hydrochloride; m.p. 270° C. or above.

reactant | methyl 4-[2-(4-phthalimidomethylphenyl)ethyl]benzimidate hydrochloride | 1.5 g | Cl.C1(C=2C(C(N1CC1=CC=C(C=C1)CCC1=CC=C(C(OC)=N)C=C1)=O)=CC=CC2)=O
reactant | methanol | 0.3 ml | CO | CH4O
reactant | methylamine | CN | CH5N
reactant | Ether | CCOCC | C4H10O
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | N-methyl-4-[2-(4-phthalimidomethylphenyl)ethyl]benzamidine hydrochloride | 1.3 g | Cl.CNC(C1=CC=C(C=C1)CCC1=CC=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)=N | InChI=1S/C25H23N3O2.ClH/c1-27-23(26)20-14-12-18(13-15-20)7-6-17-8-10-19(11-9-17)16-28-24(29)21-4-2-3-5-22(21)25(28)30;/h2-5,8-15H,6-7,16H2,1H3,(H2,26,27);1H
